* Pixel sensor testbench
**********************************************************************
**        Copyright (c) 2021 Carsten Wulff Software, Norway
** *******************************************************************
** Created       : wulff at 2021-7-22
** *******************************************************************
**  The MIT License (MIT)
**
**  Permission is hereby granted, free of charge, to any person obtaining a copy
**  of this software and associated documentation files (the "Software"), to deal
**  in the Software without restriction, including without limitation the rights
**  to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
**  copies of the Software, and to permit persons to whom the Software is
**  furnished to do so, subject to the following conditions:
**
**  The above copyright notice and this permission notice shall be included in all
**  copies or substantial portions of the Software.
**
**  THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
**  IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
**  FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
**  AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
**  LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
**  OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR OTHER DEALINGS IN THE
**  SOFTWARE.
**
**********************************************************************

*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
.include ../../models/ptm_130_ngspice.spi
.include ../../lib/SUN_TR_GF130N.spi

*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
*.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6
*----------------------------------------------------------------
*.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6

*----------------------------------------------------------------
* PARAMETERS
*----------------------------------------------------------------

.param TRF = 10n
.param TCLK = 100n
.param C_ERASE = 5
.param C_EXPOSE = {expose}
.param C_CONVERT = 255
.param C_READ = 5

*- Pulse Width of control signals
.param PW_ERASE =  {(C_ERASE +1)*TCLK}
.param PW_EXPOSE =  {(C_EXPOSE +1)*TCLK}
.param PW_CONVERT =  {(C_CONVERT +1)*TCLK}
.param PW_READ =  {(C_READ +1)*TCLK}

*- Delay of control signals
.param TD_ERASE = {TCLK }
.param TD_EXPOSE = {TD_ERASE + PW_ERASE + TCLK}
.param TD_CONVERT = {TD_EXPOSE + PW_EXPOSE + TCLK}
.param TD_READ = {TD_CONVERT + PW_CONVERT + TCLK}
.param PERIOD = {TD_READ + PW_READ + TCLK}

*- Analog parameters
.param VDD = 1.5
.param VADC_MIN = 0.55
.param VADC_MAX = 1.1   
.param VADC_REF = {VADC_MAX - VADC_MIN}
.param VADC_LSB = {VADC_REF/256}

*----------------------------------------------------------------
* Sources
*----------------------------------------------------------------
VDD VDD VSS dc VDD
VSS VSS 0 dc 0

*- Control signals
VERASE ERASE 0 dc 0 pulse (0 VDD TD_ERASE TRF TRF PW_ERASE PERIOD)
VEXPOSE EXPOSE 0 dc 0 pulse (0 VDD TD_EXPOSE TRF TRF PW_EXPOSE PERIOD)
VCONVERT CONVERT 0 dc 0 pulse (0 VDD TD_CONVERT TRF TRF PW_CONVERT PERIOD)
VREAD READ 0 dc 0 pulse (0 VDD TD_READ TRF TRF PW_READ PERIOD)

*- ADC related sources
VREF VREF 0 DC VADC_REF
VMAX VMAX 0 DC VADC_MAX
VRESET VRESET VMAX DC 0
VMIN VMIN 0 DC VADC_MIN


*----------------------------------------------------------------
* BIAS
*----------------------------------------------------------------
* Use a current mirror transistor from the SUN_TR_GF130N library
IPB1 0 VBN1 dc 1u
XMNB0 VBN1 VBN1 VSS VSS NCHCM2

*----------------------------------------------------------------
* DUT
*----------------------------------------------------------------
.include pixelSensor_copy.cir
XDUT VBN1 VRAMP VRESET ERASE EXPOSE READ
+ DATA_7 DATA_6 DATA_5 DATA_4 DATA_3 DATA_2 DATA_1 DATA_0 VDD VSS PIXEL_SENSOR

XDUT2 VBN1 VRAMP VRESET ERASE EXPOSE READ
+ TESTDATA_7 TESTDATA_6 TESTDATA_5 TESTDATA_4 TESTDATA_3 TESTDATA_2 TESTDATA_1 TESTDATA_0 VDD VSS PIXEL_SENSOR

*----------------------------------------------------------------
* RAMP
*----------------------------------------------------------------
* Use a capacitor and current source to model a ramp
* I = C x dV/dt, where
* dt = PW_CONVERT
* C = 1n
* dV = VADC_MAX - VADC_MIN
BR1 0 VRAMP I = V(CONVERT)*( 1n*(VADC_MAX - VADC_MIN)/PW_CONVERT)
CR1 VRAMP 0 1n ic=0

* SPICE freaks out if any node only have current sources and capacitors on it. so insert a resistor to ground
R1 VRAMP 0 1T

* Model reset as a variable resistor to
BR2 VRAMP VMIN I=V(ERASE)*V(VRAMP,VMIN)/100


*----------------------------------------------------------------
* Model the ramp generation and data for the memory
*----------------------------------------------------------------
* I could not really think of a good way to generate digital signals in SPICE
* So I generated the analog ramp, then digitize it to generate the DATA bit
* In a real world circuit we would use a DAC, because in SystemVerilog, it's
* easy to generate a digital bus
B1 VADC 0 V = V(VRAMP) - VADC_MIN
XADC7 VADC   REST_7 VREF DATA_0  READ CONVERT VDD ADC_1BIT
XADC6 REST_7 REST_6 VREF DATA_1  READ CONVERT VDD ADC_1BIT
XADC5 REST_6 REST_5 VREF DATA_2  READ CONVERT VDD ADC_1BIT
XADC4 REST_5 REST_4 VREF DATA_3  READ CONVERT VDD ADC_1BIT
XADC3 REST_4 REST_3 VREF DATA_4  READ CONVERT VDD ADC_1BIT
XADC2 REST_3 REST_2 VREF DATA_5  READ CONVERT VDD ADC_1BIT
XADC1 REST_2 REST_1 VREF DATA_6  READ CONVERT VDD ADC_1BIT
XADC0 REST_1 REST_0 VREF DATA_7  READ CONVERT VDD ADC_1BIT
XADCTODIG DATA_0 DATA_1 DATA_2 DATA_3 DATA_4 DATA_5 DATA_6 DATA_7
+ DIG_BIN0 DIG_BIN1 DIG_BIN2 DIG_BIN3 DIG_BIN4 DIG_BIN5 DIG_BIN6 DIG_BIN7 ADC8BIT
XGRAYCOUNT DIG_BIN0 DIG_BIN1 DIG_BIN2 DIG_BIN3 DIG_BIN3 DIG_BIN4 DIG_BIN5 DIG_BIN6 DIG_BIN7
+ GRAY_TMP0 GRAY_TMP1 GRAY_TMP2 GRAY_TMP3 GRAY_TMP4 GRAY_TMP5 GRAY_TMP6 GRAY_TMP7 GRAY_COUNT_8BIT
aread [READ] [READ_D] adc_buff
.model adc_buff adc_bridge(in_low = 0.3 in_high = 0.5)
XCONTROL GRAY_TMP0 GRAY_TMP1 GRAY_TMP2 GRAY_TMP3 GRAY_TMP4 GRAY_TMP5 GRAY_TMP6 GRAY_TMP7 READ_D
+ GRAY_0 GRAY_1 GRAY_2 GRAY_3 GRAY_4 GRAY_5 GRAY_6 GRAY_7 CONTROL
xGRAY_TO_DATA GRAY_0 GRAY_1 GRAY_2 GRAY_3 GRAY_4 GRAY_5 GRAY_6 GRAY_7
+ TESTDATA_7 TESTDATA_6 TESTDATA_5 TESTDATA_4 TESTDATA_3 TESTDATA_2 TESTDATA_1 TESTDATA_0 GRAY_TO_DATA

* XCONTROL TESTDATA_0 TESTDATA_1 TESTDATA_2 TESTDATA_3 TESTDATA_4 TESTDATA_5 TESTDATA_6 TESTDATA_7 CONVERT 
* + NEWDATA_0 NEWDATA_1 NEWDATA_2 NEWDATA_3 NEWDATA_4 NEWDATA_5 NEWDATA_6 NEWDATA_7 CONTROL_GATES
XDAC0 DATA_7 DATA_6 DATA_5 DATA_4 DATA_3 DATA_2 DATA_1 DATA_0 DO VDD DAC_8BIT

*----------------------------------------------------------------
* 1-bit ADC model
*----------------------------------------------------------------
* Use the well know fact that we can connect multiple 1 bit ADCs in series,
* as long as we multiply the analog remainder by two.
* Or in maths:
*   if in > ref/2:
*      d = 1
*      out = 2*in - ref
*   else:
*      d = 0
*      out = 2*in
*
* Model the DATA output as pulled to VDD when we're reading
.SUBCKT ADC_1BIT VIN VOUT VREF DATA READ CONVERT VDD
B1 D 0 V= V(VIN) > V(VREF)/2 ? 1 : 0
B2 VOUT 0  V = 2*(V(VIN) - V(VREF)/2*V(D))
B3 DATA_INT 0 V = V(D)*V(VDD)
B4 DATA_INT DATA I=V(CONVERT)*V(DATA_INT,DATA)/1k
B5 DATA VDD I=V(READ)*V(DATA,VDD)/1e4
.ENDS


*----------------------------------------------------------------
* 8-bit DAC model model
*----------------------------------------------------------------
* integer = 2^7*b7 + 2^6*b6 ... 2^0*b0
.SUBCKT DAC_8BIT DATA_7 DATA_6 DATA_5 DATA_4 DATA_3 DATA_2 DATA_1 DATA_0 DO VDD
B1 DO_VDD 0 V = 128*V(DATA_7) + 64*V(DATA_6) + 32*V(DATA_5) + 16*V(DATA_4)+ 8*V(DATA_3) + 4*V(DATA_2) + 2*V(DATA_1) + 1*V(DATA_0)
B2 DO 0 V = V(DO_VDD)/V(VDD)
.ENDS


// Digitilize Carstens ADC (funny in a way)
.SUBCKT ADC8BIT BIN_DATA0 BIN_DATA1 BIN_DATA2 BIN_DATA3 BIN_DATA4 BIN_DATA5 BIN_DATA6 BIN_DATA7
+ DIG_BIN0 DIG_BIN1 DIG_BIN2 DIG_BIN3 DIG_BIN4 DIG_BIN5 DIG_BIN6 DIG_BIN7
    .model adc_buff adc_bridge(in_low = 0.3 in_high = 0.5)
    abin0 [BIN_DATA0] [DIG_BIN0] adc_buff
    abin1 [BIN_DATA1] [DIG_BIN1] adc_buff
    abin2 [BIN_DATA2] [DIG_BIN2] adc_buff
    abin3 [BIN_DATA3] [DIG_BIN3] adc_buff
    abin4 [BIN_DATA4] [DIG_BIN4] adc_buff
    abin5 [BIN_DATA5] [DIG_BIN5] adc_buff
    abin6 [BIN_DATA6] [DIG_BIN6] adc_buff
    abin7 [BIN_DATA7] [DIG_BIN7] adc_buff
   
.ENDS

* .SUBCKT CONTROL_GATES GRAY_0 GRAY_1 GRAY_2 GRAY_3 GRAY_4 GRAY_5 GRAY_6 GRAY_7 CONVERT
* + DATA_7 DATA_6 DATA_5 DATA_4 DATA_3 DATA_2 DATA_1 DATA_0
*     M1 GRAY_0 CONVERT DATA_0 DATA_0 nmos w=0.8u l=0.13u
*     M2 GRAY_1 CONVERT DATA_1 DATA_1 nmos w=0.8u l=0.13u
*     M3 GRAY_2 CONVERT DATA_2 DATA_2 nmos w=0.8u l=0.13u
*     M4 GRAY_3 CONVERT DATA_3 DATA_3 nmos w=0.8u l=0.13u
*     M5 GRAY_4 CONVERT DATA_4 DATA_4 nmos w=0.8u l=0.13u
*     M6 GRAY_5 CONVERT DATA_5 DATA_5 nmos w=0.8u l=0.13u
*     M7 GRAY_6 CONVERT DATA_6 DATA_6 nmos w=0.8u l=0.13u
*     M8 GRAY_7 CONVERT DATA_7 DATA_7 nmos w=0.8u l=0.13u
* .ENDS

.SUBCKT GRAY_COUNT_8BIT DIG_BIN0 DIG_BIN1 DIG_BIN2 DIG_BIN3 DIG_BIN3 DIG_BIN4 DIG_BIN5 DIG_BIN6 DIG_BIN7
+ GRAY_TMP0 GRAY_TMP1 GRAY_TMP2 GRAY_TMP3 GRAY_TMP4 GRAY_TMP5 GRAY_TMP6 GRAY_TMP7
    .model xor1 d_xor(rise_delay = 0.5e-9 fall_delay = 0.3e-9
    + input_load = 0.5e-12)
    aXO0 [DIG_BIN7 DIG_BIN6] GRAY_TMP7 xor1
    aXO1 [DIG_BIN6 DIG_BIN5] GRAY_TMP6 xor1
    aXO2 [DIG_BIN5 DIG_BIN4] GRAY_TMP5 xor1
    aXO3 [DIG_BIN4 DIG_BIN3] GRAY_TMP4 xor1
    aXO4 [DIG_BIN3 DIG_BIN2] GRAY_TMP3 xor1
    aXO5 [DIG_BIN2 DIG_BIN1] GRAY_TMP2 xor1
    aXO6 [DIG_BIN1 DIG_BIN0] GRAY_TMP1 xor1
    aGO7 DIG_BIN0 GRAY_TMP0 buff1
    .model buff1 d_buffer(rise_delay = 0.5e-12 fall_delay = 0.3e-12
    + input_load = 0.5e-12)
.ENDS

.SUBCKT GRAY_TO_DATA GRAY_0 GRAY_1 GRAY_2 GRAY_3 GRAY_4 GRAY_5 GRAY_6 GRAY_7
+ DATA_7 DATA_6 DATA_5 DATA_4 DATA_3 DATA_2 DATA_1 DATA_0
    .model dac1 dac_bridge(out_low = 0 out_high = 1.2 out_undef = 0.5
    + input_load = 5.0e-12 t_rise = 50e-9 t_fall = 20e-9)    
    abridge0 [GRAY_0] [DATA_0] dac1
    abridge1 [GRAY_1] [DATA_1] dac1
    abridge2 [GRAY_2] [DATA_2] dac1
    abridge3 [GRAY_3] [DATA_3] dac1
    abridge4 [GRAY_4] [DATA_4] dac1
    abridge5 [GRAY_5] [DATA_5] dac1
    abridge6 [GRAY_6] [DATA_6] dac1
    abridge7 [GRAY_7] [DATA_7] dac1
.ENDS

.SUBCKT CONTROL GRAY_TMP0 GRAY_TMP1 GRAY_TMP2 GRAY_TMP3 GRAY_TMP4 GRAY_TMP5 GRAY_TMP6 GRAY_TMP7 READ_D
    + GRAY_0 GRAY_1 GRAY_2 GRAY_3 GRAY_4 GRAY_5 GRAY_6 GRAY_7
    .model or1 d_or(rise_delay = 0.5e-18 fall_delay = 0.3e-18
    + input_load = 0.5e-12)
    aor0 [GRAY_TMP0 READ_D] GRAY_0 or1
    aor1 [GRAY_TMP1 READ_D] GRAY_1 or1
    aor2 [GRAY_TMP2 READ_D] GRAY_2 or1
    aor3 [GRAY_TMP3 READ_D] GRAY_3 or1
    aor4 [GRAY_TMP4 READ_D] GRAY_4 or1
    aor5 [GRAY_TMP5 READ_D] GRAY_5 or1
    aor6 [GRAY_TMP6 READ_D] GRAY_6 or1
    aor7 [GRAY_TMP7 READ_D] GRAY_7 or1
    .model buff1 d_buffer(rise_delay = 0.5e-12 fall_delay = 0.3e-12
    + input_load = 0.5e-12)
.ENDS



*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------

.control
set color0=white
set color1=black
unset askquit
tran 1n 80u
* plot V(ERASE) V(EXPOSE) V(CONVERT) V(READ)
* plot V(VRAMP) V(CONVERT) V(ERASE)
* plot V(DO)
* plot V(XDUT2.VSTORE) V(ERASE) V(EXPOSE) V(CONVERT) V(VRAMP) V(XDUT2.VCMP_OUT) V(READ)

* plot v(XDUT2.VCMP_OUT)
hardcopy plot9 (XDUT2.VSTORE)* plot v(XDUT2.xs1.vpg)
* plot v(XDUT2.xc1.TEST_OUT)

* plot v(xdut2.xm1.xm1.vg) v(xdut2.xm1.xm1.dmem) 
* plot v(xdut2.xm1.xm2.vg) v(xdut2.xm1.xm2.dmem) 
* plot v(xdut2.xm1.xm3.vg) v(xdut2.xm1.xm3.dmem) 
* plot v(xdut2.xm1.xm4.vg) v(xdut2.xm1.xm4.dmem) 
* plot v(xdut2.xm1.xm5.vg) v(xdut2.xm1.xm5.dmem) 
* plot v(xdut2.xm1.xm6.vg) v(xdut2.xm1.xm6.dmem) 
* plot v(xdut2.xm1.xm7.vg) v(xdut2.xm1.xm7.dmem) 
* plot v(xdut2.xm1.xm8.vg) v(xdut2.xm1.xm8.dmem) 

.endc
.end
